US06919315B1
(2E)-5-Amino-3,5-dimethylhex-2-enoic acid N-((1R)-1-{N-[(1R)-1-(4-fluorobenzyl)-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylamide
This compound was prepared as in example 1 but using 4-hydroxypiperidine, (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(4-fluorophenyl)propionic acid and (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid and (2E)-5-tert-butoxycarbonylamino-3,5-dimethylhex-2-enoic acid as starting materials.

reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(4-fluorophenyl)propionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=C(C=C1)F | C15H20FNO4
reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | (2E)-5-tert-butoxycarbonylamino-3,5-dimethylhex-2-enoic acid | C(C)(C)(C)OC(=O)NC(C/C(=C/C(=O)O)/C)(C)C | C13H23NO4
product | (2E)-5-Amino-3,5-dimethylhex-2-enoic acid N-((1R)-1-{N-[(1R)-1-(4-fluorobenzyl)-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylamide | FC1=CC=C(C[C@H](C(=O)N2CCC(CC2)O)N(C(=O)[C@@H](CC2=CC3=CC=CC=C3C=C2)N(C(\C=C(\CC(C)(C)N)/C)=O)C)C)C=C1 | C37H47FN4O4
